US04886835
A solution of dimethylamine (233 cc) in methylene chloride is added in the course of 1 hour 20 minutes, at a temperature of approximately 20° C., to a solution of N-(3-ethoxy-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (1,007 g) in methylene chloride. Anhydrous ethyl ether (2,000 cc) is then run slowly into the reaction medium, and the crystalline product is then separated off by filtration and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of approximately 20° C. N-(3-Dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (925 g), m.p. 102° C., is thereby obtained.

reactant | dimethylamine | 233 cc | CNC | C2H7N
reactant | N-(3-ethoxy-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 1,007 g | F[B-](F)(F)F.C(C)OC(=CC=[N+](C)C)C(=O)OCC
reactant | ethyl ether | 2,000 cc | C(C)OCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3-Dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 925 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C | InChI=1S/C10H19N2O2.BF4/c1-6-14-10(13)9(12(4)5)7-8-11(2)3;2-1(3,4)5/h7-8H,6H2,1-5H3;/q+1;-1
